Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Sulfa (Sulfonamides)
 
Attending: ___.
 
Chief Complaint:
L4/5 stenosis
 
Major Surgical or Invasive Procedure:
s/p L4/5 posterior spinal fusion, decompression

 
History of Present Illness:
see admit H&P
 
Past Medical History:
see admit H&P
 
Social History:
___
Family History:
NC
 
Physical Exam:
see admit H&P
 
Brief Hospital Course:
Patient underwent above mentioned procedure on ___.  Procedure 
was well tolerated and patient was transferred to the floor from 
the PACU in stable condition.  Post-op, pain was controlled with 
IV followed by PO meds, diet was slowly advanced, and ___ was 
consulted for assistance with his care.  Drain was D/C'd when 
output was minimal.

Pt progressed well.  Incision maintained excellent appearance 
throughout hospitalization.  He passed ___ without difficulty.  
Given his excellent progress and stability from a surgical 
standpoint, he was deemed stable for discharge to home.
 
Medications on Admission:
see admit H&P
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for fever, pain.  
2. Finasteride 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: Two (2) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
5. Magnesium Oxide 140 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
6. Oxycodone 5 mg Tablet Sig: ___ Tablets PO Q3H (every 3 hours) 
as needed for pain.
Disp:*80 Tablet(s)* Refills:*0*
7. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed for constipation.  

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
L4/5 stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
1. Keep incision clean and dry, change daily until dry for 24 
hours, then leave open to air.
2. Change dressing after showering.  Do not submerge incision 
(no baths)
3. No bending, twisting, pushing, pulling; no lifting over 10 
pounds
4. Continue ___ exercises
Physical Therapy:
Continue to advance mobility, work on endurance as tolerated.  
No lifting greater than 10 pounds.
Treatments Frequency:
Keep incision clean and dry, daily dressing change until dry for 
24 hours, then leave open to air.
 
Followup Instructions:
___